US07504408B2
N-Methylpropargylamine (600 mg, 8.70 mmol) and triethylamine (878 mg, 8.68 mmol) in dichloromethane (10 ml) were added dropwise, with ice cooling, to a stirred solution of 4-nitrophenyl chloroformate (1.75 g, 8.68 mmol) in dichloromethane (10 ml). The reaction was stirred at ice temperature for 3 hr. then the resulting solution purified by column chromatography on silica using 25% ethyl acetate in iso-hexane as eluent. Thus was obtained 4-nitrophenyl methyl(prop-2-yn-1-yl)carbamate (1.80 g, 89%) as a colourless oil. Dimethylamine (3.0 ml of a 2.0M solution in THF, 6.0 mmol) and 4-nitrophenyl methyl(prop-2-yn-1-yl)carbamate (600 mg, 2.56 mmol), in dichloromethane (7 ml) were stirred at room temperature for 6 days then the reaction solution purified by chromatography on silica using ethyl acetate as eluent to give N,N,N′-trimethyl-N′-prop-2-yn-1-ylurea (164 mg, 46%) as a colourless oil.

reactant | N-Methylpropargylamine | 8.70 mmol, 600 mg | CNCC#C | C4H7N
reactant | triethylamine | 8.68 mmol, 878 mg | C(C)N(CC)CC | C6H15N
reactant | 4-nitrophenyl chloroformate | 8.68 mmol, 1.75 g | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 4-nitrophenyl methyl(prop-2-yn-1-yl)carbamate | 1.80 g, 89% | CN(C(OC1=CC=C(C=C1)[N+](=O)[O-])=O)CC#C | C11H10N2O4
